US08445684B2
3-[5-[[1-(Benzyloxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]-3-azabicyclo[3.1.0]hexane
A mixture of CF3COOH, H2O, and CH2Cl2 (10:1:40, 153 mL) was added to a 250 mL round-bottom flask containing 3-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]-3-azabicyclo[3.1.0]hexane (6.00 g, 15.8 mmol). The flask was capped with a glass stopper, and the reactants were stirred at room temperature for 14 h. The reaction mixture was concentrated with a rotary evaporator (bath up to 35° C.) and was further dried with an oil pump (35° C.). The residue was dissolved in water (30 mL) and THF (100 mL). The mixture was stirred in an ice bath. Aqueous NaOH solution (5 N, approximately 20 mL) was added dropwise to adjust the pH of the solution to 10 (as monitored by spotting a few μL of the solution on pH paper). Benzyl chloroformate (4.9 mL, 31.6 mmol, 2.0 equiv.) was added dropwise over 30 min. During the addition, the pH of the solution was kept between 9 and 10 by gradually adding 5 N NaOH solution (approximately 20 mL). The pH of the solution was adjusted to 10 at the end of the addition. The ice bath was removed, and the mixture was stirred at room temperature for 18 h. The product was extracted into EtOAc (150+2×100 mL). The combined organic phases were concentrated, and the residue was purified by CC (SiO2, 25×3.8 cm, EtOAc/hexanes 3:1) to give the product as a colorless oil (4.00 g, 67%). 1H NMR (CDCl3, 500 MHz) δ 7.68 (br s, 1H), 7.63 (s, 1H), 7.38-7.26 (m, 5H), 6.40 (br s, 1H), 5.13 (s, 1H, J=12.2 Hz), 5.09 (s, 1H, J=8.8 Hz), 4.65-4.58 (m, 1H), 4.50-4.23 (m, 1H), 4.17-4.10 (m, 1H), 4.06-3.96 (m, 2H), 3.51 (d, 2H, J=8.8 Hz), 3.40 (d, 1H, J=8.3 Hz), 2.47-2.32 (m, 2H), 1.70 (t, 2H, J=3.4 Hz), 0.79 (td, 1H, J=7.6, 4.9 Hz), 0.33 (q, 1H, J=3.8 Hz). MS (EI) m/z 379 (M+, 10%), 288 (1.9%), 177 (4.8%), 176 (9.1%), 175 (11%), 148 (5.0%), 91 (100%). The product of a second run solidified on standing at room temperature; mp 80-81.5° C.

reactant | CF3COOH | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 3-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]-3-azabicyclo[3.1.0]hexane | 15.8 mmol, 6.00 g | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)N1CC2CC2C1 | C19H27N3O3
reactant | Benzyl chloroformate | 31.6 mmol, 4.9 mL, 2.0 equiv. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaOH | 5 N, approximately 20 mL | [OH-].[Na+]
solvent | CH2Cl2 | 153 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 3-[5-[[1-(Benzyloxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]-3-azabicyclo[3.1.0]hexane | 4.00 g, 67% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)N1CC2CC2C1 | C22H25N3O3
